US04042706
210 mg. of [4-(4-nitrophenyl)-1-phenyl-3-pyrazolyl]acetic acid are reacted with 20 ml. of glycol monomethyl ether and 1 g. of Raney nickel and hydrogenated at room temperature under normal pressure. The reaction is worked up as described in Example 17(c). [4-(4-Aminophenyl)-1-phenyl-3-pyrazolyl]acetic acid is obtained.

reactant | [4-(4-nitrophenyl)-1-phenyl-3-pyrazolyl]acetic acid | [N+](=O)([O-])C1=CC=C(C=C1)C=1C(=NN(C1)C1=CC=CC=C1)CC(=O)O | C17H13N3O4
catalyst | Raney nickel | [Ni] | Ni
solvent | glycol monomethyl ether | COCCO | C3H8O2
product | [4-(4-Aminophenyl)-1-phenyl-3-pyrazolyl]acetic acid | NC1=CC=C(C=C1)C=1C(=NN(C1)C1=CC=CC=C1)CC(=O)O | C17H15N3O2
